US04692257
1,2-Dodecanediol Borate (High Boron Content)
Approximately 151 g of 1,2-dodecanediol and ~150 g of toluene were charged to a 1 liter reactor equipped with agitator, heater and Dean-Stark tube with condenser and provision for using a nitrogen vapor space blanket. The contents were heated up to ~75° C., and 45 g of boric acid was added. The mixture was heated up to 155° C. over a period of ~5 hours until water evolution stopped. The solvent was removed by vacuum distillation and the product was filtered hot through diatomaceous earth. The product was a viscous, clear yellow fluid.

reactant | 1,2-dodecanediol | 151 g | C(C(CCCCCCCCCC)O)O | C12H26O2
reactant | toluene | ~150 g | C1(=CC=CC=C1)C | C7H8
reactant | boric acid | 45 g | B(O)(O)O | BH3O3
solvent | water | O | H2O
product | 1,2-Dodecanediol Borate | B(O)(O)O.C(C(CCCCCCCCCC)O)O | InChI=1S/C12H26O2.BH3O3/c1-2-3-4-5-6-7-8-9-10-12(14)11-13;2-1(3)4/h12-14H,2-11H2,1H3;2-4H
